### PR TITLE
[Merged by Bors] - feat(Manifold/Instances/Icc): golf smoothness proof using immersions

### PR DESCRIPTION
**Pull request by grunweg**
Prove that the inclusion of an interval into the real numbers is a smooth embedding,
and use this to golf the proof that this inclusion is smooth.

While at it, rename the smoothness lemmas after the coercion `Subtype.val` they are using,
as mandated by the naming convention.

---

- [x] depends on: #28865
- [x] depends on: #40632
- [x] depends on: #40634
- [x] depends on: #40637
- [x] depends on: #42031

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Instances/Icc.lean [hunk 1]
```diff
@@ -64,48 +67,74 @@ instance {x y : ℝ} [h : Fact (x < y)] (z : Icc x y) : One (TangentSpace (𝓡
...
 variable {x y : ℝ} [h : Fact (x < y)] {n : WithTop ℕ∞}
 
-set_option backward.isDefEq.respectTransparency false in
-/-- The inclusion map from of a closed segment to `ℝ` is smooth in the manifold sense. -/
-lemma contMDiff_subtype_coe_Icc : CMDiff n (fun (z : Icc x y) ↦ (z : ℝ)) := by
+open Manifold IsManifold
+
+-- TODO: all these lemmas are technically misnamed; the relevant coercion is Subtype.val!
+
+set_option linter.flexible false in
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Icc.lean]: I'm surprised to see this: surely we should just fix the various non-terminal simps below?

File: Mathlib/Geometry/Manifold/Instances/Icc.lean [hunk 2]
```diff
@@ -64,48 +67,74 @@ instance {x y : ℝ} [h : Fact (x < y)] (z : Icc x y) : One (TangentSpace (𝓡
...
+/-- The inclusion map from a closed segment to `ℝ` is a smooth immersion -/
+lemma isImmersionOfComplement_subtype_coe_Icc :
+    IsImmersionOfComplement (EuclideanSpace ℝ (Fin 0)) (𝓡∂ 1) 𝓘(ℝ) n
+      (fun (z : Icc x y) ↦ (z : ℝ)) := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Icc.lean]: How about just:
```suggestion
    IsImmersionOfComplement Unit (𝓡∂ 1) 𝓘(ℝ) n (fun (z : Icc x y) ↦ (z : ℝ)) := by
```

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Icc.lean]: Err, of course. Much better!

File: Mathlib/Geometry/Manifold/Instances/Icc.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Icc.lean]: In this case, I don't think the fix was particularly pretty. (I've done the clear cases already.) I've hand-optimised the results of `simp?` now, and I can live with it.

**Comment by grunweg** [comment]
-awaiting-author

**Comment by grunweg** [comment]
With the new Lean version, my proofs broke - I just pushed fixes (which required adding further basic API lemmas for IccLeftChart and IccRightChart). I'm open to additional ideas to clean this up.

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 3]
```diff
@@ -240,6 +240,13 @@ scoped[Manifold]
     (modelWithCornersEuclideanHalfSpace n :
       ModelWithCorners ℝ (EuclideanSpace ℝ (Fin n)) (EuclideanHalfSpace n))
 
+lemma modelWithCornersEuclideanHalfSpace_toFun (n : ℕ) [NeZero n] :
+    (𝓡∂ n : _ → _) = Subtype.val := by rfl
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Real.lean]:
```suggestion
@[simp] lemma modelWithCornersEuclideanHalfSpace_toFun (n : ℕ) [NeZero n] :
    (𝓡∂ n : _ → _) = Subtype.val := rfl
```

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 4]
```diff
@@ -240,6 +240,13 @@ scoped[Manifold]
...
+
+lemma modelWithCornersEuclideanHalfSpace_symm_apply {n : ℕ} [NeZero n]
+    (x : EuclideanSpace ℝ (Fin n)) :
+    (𝓡∂ n).symm x = ⟨toLp 2 (update x 0 (max (x 0) 0)), by simp⟩ := by rfl
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Real.lean]:
```suggestion
    (𝓡∂ n).symm x = ⟨toLp 2 (update x 0 (max (x 0) 0)), by simp⟩ := rfl
```

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 5]
```diff
@@ -299,6 +306,14 @@ def IccLeftChart (x y : ℝ) [h : Fact (x < y)] :
   continuousOn_toFun := by fun_prop
   continuousOn_invFun := by fun_prop
 
+lemma IccLeftChart_apply (x y : ℝ) [h : Fact (x < y)] (z : Icc x y) :
+    IccLeftChart x y z = ⟨toLp 2 fun _ ↦ z.val - x, sub_nonneg.mpr z.property.1⟩ := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Real.lean]:
```suggestion
lemma IccLeftChart_apply (x y : ℝ) [Fact (x < y)] (z : Icc x y) :
    IccLeftChart x y z = ⟨toLp 2 fun _ ↦ z.val - x, by aesop⟩ :=
```

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 6]
```diff
@@ -299,6 +306,14 @@ def IccLeftChart (x y : ℝ) [h : Fact (x < y)] :
...
+  rfl
+
+lemma IccLeftChart_symm_apply (x y : ℝ) [h : Fact (x < y)] (z : EuclideanHalfSpace 1) :
+    (IccLeftChart x y).symm z = ⟨min (z.val 0 + x) y, by simp [z.prop, h.out.le]⟩ := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Real.lean]:
```suggestion
    (IccLeftChart x y).symm z = ⟨min (z.val 0 + x) y, by simp [z.prop, h.out.le]⟩ :=
```

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 7]
```diff
@@ -367,6 +382,15 @@ def IccRightChart (x y : ℝ) [h : Fact (x < y)] :
   continuousOn_toFun := by fun_prop
   continuousOn_invFun := by fun_prop
 
+lemma IccRightChart_apply (x y : ℝ) [h : Fact (x < y)] (z : Icc x y) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Real.lean]: Can we reuse the existing `variable`s rather than redeclaring `x` and `y`?

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 8]
```diff
@@ -299,6 +306,14 @@ def IccLeftChart (x y : ℝ) [h : Fact (x < y)] :
...
   continuousOn_invFun := by fun_prop
 
+lemma IccLeftChart_apply (x y : ℝ) [h : Fact (x < y)] (z : Icc x y) :
+    IccLeftChart x y z = ⟨toLp 2 fun _ ↦ z.val - x, sub_nonneg.mpr z.property.1⟩ := by
+  rfl
+
+lemma IccLeftChart_symm_apply (x y : ℝ) [h : Fact (x < y)] (z : EuclideanHalfSpace 1) :
+    (IccLeftChart x y).symm z = ⟨min (z.val 0 + x) y, by simp [z.prop, h.out.le]⟩ := by
+  rfl
+
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Real.lean:316]: Actually I think the following will be a much more useful lemma:
```lean
lemma IccLeftChart_symm_apply_of_le (x y : ℝ) [h : Fact (x < y)]
    (z : EuclideanHalfSpace 1) (hz : z.val 0 ≤ y - x) :
    (IccLeftChart x y).symm z =
      ⟨z.val 0 + x, by simpa [z.prop, h.out.le, ← le_add_neg_iff_add_le]⟩ := by
  ext
  simp only [IccLeftChart_symm_apply, Fin.isValue, inf_eq_left]
  linarith
```

File: Mathlib/Geometry/Manifold/Instances/Icc.lean [hunk 9]
```diff
@@ -64,48 +67,76 @@ instance {x y : ℝ} [h : Fact (x < y)] (z : Icc x y) : One (TangentSpace (𝓡
...
+    intro z' hz'
+    have : 0 ≤ z' 0 := by simp_all [IccLeftChart, modelWithCornersEuclideanHalfSpace]
+    dsimp
+    simp only [hz, ↓reduceIte, Homeomorph.toOpenPartialHomeomorph_apply, Homeomorph.coe_addLeft]
+    rw [IccLeftChart_symm_apply, modelWithCornersEuclideanHalfSpace_symm_apply]
+    dsimp only [Fin.isValue]
+    rw [min_eq_left, max_eq_left this]
+    · simp [φ, φ₀, add_comm]
+    · simp_all [IccLeftChart, modelWithCornersEuclideanHalfSpace_symm_apply]
+      linarith
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/Icc.lean]: A proof like this really worries me. Things that suggest to me that we need to improve include:
- Needing to name many non-mathematical lemmas
- Non-terminal `dsimp`
- Alternating between `dsimp`, `simp`, `rw`, `dsimp` etc.
- Spawning side goal during final `rw`

I recognise you're working in a tricky area and I certainly don't have all the answers but I think proofs like this are a real opportunity to ask ourselves about design, or maybe just upstream API. For example adding `IccLeftChart_symm_apply_of_le` (suggested above) should help. I don't love the following but I think it is a step in the right direction:
```suggestion
    obtain ⟨⟨u, rfl⟩, hu⟩ :
        (∃ y, ⇑(𝓡∂ 1) y = z') ∧ ⇑(𝓡∂ 1).symm z' ∈ (IccLeftChart x y).target := by
      simpa [hz] using hz'
    replace hu : ofLp u.val 0 ≤ y - x := by
      -- Bad proof (non-terminal `simp`): but demonstrates the idea
      simp [IccLeftChart] at hu
      exact hu.le
    simp [hz, IccLeftChart_symm_apply_of_le x y u hu, φ, φ₀]
    rfl -- TODO Can we arrange for `simp` to close this?
```

File: Mathlib/Geometry/Manifold/Instances/Real.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Real.lean:316]: Indeed: added with a small tweak (and also the IccRightChart analogue).

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Real.lean:316]: Indeed: added with a small tweak (and also the IccRightChart analogue).

File: Mathlib/Geometry/Manifold/Instances/Icc.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Icc.lean]: I very much agree with your intuition. (At that point, I was happy with some kind of proof; your suggestions for where to look were very helpful!) I just pushed a version of the first of the two proofs that is close to yours.

I am not psyched about
- adding another hypothesis `hu'` (which is close to `hu`, but not identical to it)
- closing the proof with `simp` followed by `simpa`. These cannot be combined, as then `modelWithCornersEuclideanHalfSpace_symm_apply` fires first and `hu'` does not apply any more.

Trying to apply the model with corners simplification first, I can come up with
```
    simp [hz, φ, φ₀, modelWithCornersEuclideanHalfSpace_symm_apply, u.property]
    change -x + ↑((IccLeftChart x y).symm u) = (u.val).ofLp 0
    simp [IccLeftChart_symm_apply_of_le hu]
```
(and removing `hu'`). The `change` in the middle is to simplify `⟨u.val, /- proof of 0 ≤ u.ofLp 0 -/ sorry⟩` back into `u`; apparently this is caused by the initial obtain: the `linter.tacticCheckInstances` option produces
```
  Application type mismatch: The argument
    y
  has type
    EuclideanHalfSpace 1
  but is expected to have type
    { x // 0 ≤ x.ofLp 0 }
  in the application
    ↑y
```

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Icc.lean]: This may be pre-existing defeq abuse, though: let me investigate...

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Icc.lean]: With #42031 applied, the simps can be combined (and the `change` removed). Let me mark as depending on that PR.

**Comment by ocfnash** [comment]
Thanks, I'll let you fix CI and then I think this is ready for master.

bors d+

**Comment by grunweg** [comment]
After merging master, CI passes:
bors merge
